### PR TITLE
[Merged by Bors] - fix: ring_nf should rewrite expressions which reduce to atoms

### LINKED ISSUE #2171: `ring_nf` fails to fully normalize some expressions
```lean
import Mathlib.Tactic.Ring

theorem foo (x : ℤ) (h₀ : x^2 - (x - 1) * x = 5) : x = 5 := by
  ring_nf at h₀
  -- I expect h₀ to be `x = 5` now, but instead it is `x ^ 2 - (-x + x ^ 2) = 5`.
  sorry
```
or, even simpler:
```lean
import Mathlib.Tactic.Ring

theorem foo (x : ℤ) (h₀ : x - x + x = 0) : x = 0 := by
  ring_nf at h₀
  -- I expect h₀ to be `x = 0` now, but instead it is `0 + x = 0`.
  sorry
```

The problem goes away if I comment out this line: https://github.com/leanprover-community/mathlib4/blob/c16c0c414d4ea87bd10716ffd38b93d9d66aa215/Mathlib/Tactic/Ring/RingNF.lean#L97
but according to @digama0 in [this zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/ring_nf.20failing.20to.20fully.20normalize), removing that line would cause the tactic to perform lots of unnecessary rewrites in other situations.

### PR DESCRIPTION
**Pull request by kim-em**
Closes #2171.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/Ring/Basic.lean [hunk 1]
```diff
@@ -987,6 +987,26 @@ theorem div_congr {R} [DivisionRing R] {a a' b b' c : R} (_ : a = a') (_ : b = b
 /-- A precomputed `Cache` for `ℕ`. -/
 def Cache.nat : Cache sℕ := { rα := none, dα := none, czα := some q(inferInstance) }
 
+/-- Checks whether `e` will be treated as an atom by `eval`. -/
+-- Note this is not the same as whether the result of `eval` is an atom. (e.g. consider `x + 0`.)
+def isAtom {u} {α : Q(Type u)} (sα : Q(CommSemiring $α))
+    (c : Cache sα) (e : Q($α)) : AtomM Bool := do
+  let els : MetaM Bool := try
+      _ ← derive e
```
Comment (digama0) [inline Mathlib/Tactic/Ring/Basic.lean:995]: Hm, this is unfortunate. How about a lighter version of `NormNum.derive` which just checks whether there are any applicable rules in the NormNum discrimination tree? Alternatively, we could return the result of `derive` from this function and apply it to the expression. The worry is that we have to evaluate any numerics twice this way.

Comment (semorrison) [reply Mathlib/Tactic/Ring/Basic.lean]: I've made another attempt. This time, the lightweight function is `isAtomOrDerivable`, which either returns:
* `none` if the expression "looks algebraic enough for `eval`"
* `some (some r)` otherwise, if `NormNum.derive` can simplify the expression
* `some none` otherwise, in which case we can consider the expression an atom.

Then, in `RingNF.rewrite`, we call this first. In the `some none` (i.e. atom) case, we just stop processing. In the `some (some r)` case, we just use that result immediately, without calling `eval` again. In the `none` case, we actually call `eval`.

I think this avoids evaluating any numerics twice, because if we are in the `none` case, then we know that `eval` is going to handle the outermost algebraic expression itself (i.e. by constructing a ring normal form), rather than passing it to `NormNum.derive`.

**Comment by digama0** [comment]
bors d+

**Comment by semorrison** [comment]
bors merge
